US05597929
To a solution of 1.01 g (2.50 mmol) of 3-[4-(4-phenyl-1-butoxy)benzoyl]-amino-2-hydroxyacetophenone and 0.669 g (3.12 mmol) of ethyl N-ethoxycarbonyltetrazol-5-carboxylate dissolved in 10 ml of toluene was added 1.45 g (7.5 mmol) of 28 % sodium methylate/methanol solution at room temperature, and the mixture was kept at 40° C. for 5 hours. To the resulting reaction mixture was added dropwise 1.22 g (12.7 mmol) of methanesulfonic acid at 40° C., and the mixture was kept at 60° C. for 5 hours. Then, 5% aqueous sodium dihydrogenphosphate and toluene were poured into the reaction mixture, followed by phase separation, washing with water, and concentration under reduced pressure. The residue was recrystallized from toluene to give 1.1 g of 2-(N-ethoxycarbonyltetrazol-5-yl)-4-oxo-4H-benzopyran. Yield, 77%; m.p., 154°-157° C. (decomp.).

reactant | ethyl N-ethoxycarbonyltetrazol-5-carboxylate | 3.12 mmol, 0.669 g | C(C)OC(=O)N1N=NN=C1C(=O)OCC | C7H10N4O4
reactant | sodium methylate methanol | 7.5 mmol, 1.45 g | C[O-].[Na+].CO
reactant | methanesulfonic acid | 12.7 mmol, 1.22 g | CS(=O)(=O)O | CH4O3S
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(N-ethoxycarbonyltetrazol-5-yl)-4-oxo-4H-benzopyran | 1.1 g | C(C)OC(=O)N1N=NN=C1C=1OC2=C(C(C1)=O)C=CC=C2 | C13H10N4O4
